US07348438B2
5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-1-(3-trifluoromethoxy-benzyl)-1H-benzoimidazole
To 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole (495 mg) in DMF (5 mL) was added potassium carbonate powder (763 mg) and 3-(trifluoromethoxy) benzyl bromide (1.41 g). The resulting mixture was stirred at room temperature overnight. The reaction mixture was quenched with water, extracted with EtOAc, and dried over Na2SO4. The crude product was purified by silica gel chromatography (10%-40% EtOAc/hexanes) to yield the title compound as a brown solid.

reactant | 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole | 495 mg | ClC1=CC2=C(NC(=N2)CC(F)(F)F)C=C1Cl | C9H5Cl2F3N2
reactant | potassium carbonate | 763 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(trifluoromethoxy) benzyl bromide | 1.41 g | FC(OC=1C=C(CBr)C=CC1)(F)F | C8H6BrF3O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-1-(3-trifluoromethoxy-benzyl)-1H-benzoimidazole | ClC1=CC2=C(N(C(=N2)CC(F)(F)F)CC2=CC(=CC=C2)OC(F)(F)F)C=C1Cl | C17H10Cl2F6N2O
